US06342765B1
A solution of N-(2-oxopropyl)morpholine (82 g, 0.57 mmol) in diethyl ether (400 ml) was added to a solution of 3M CH3MgBr (500 ml, 1.5 ml) in anhydrous diethyl ether (21) and stirred at 0° C. under an argon atmosphere. The mixture was stirred at ambient temperature for 16 hours, treated with 12N HCl (50 ml) and extracted with ethyl acetate. The product was purified by flash column chromatography eluting with ethyl acetate to give N-(2-hydroxy-2-methylpropyl)morpholine.

reactant | N-(2-oxopropyl)morpholine | 0.57 mmol, 82 g | O=C(CN1CCOCC1)C | C7H13NO2
reactant | CH3MgBr | 3M, 500 ml | C[Mg+].[Br-]
reactant | HCl | 12N, 50 ml | Cl | ClH
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | N-(2-hydroxy-2-methylpropyl)morpholine | Yield: 33% | OC(CN1CCOCC1)(C)C | C8H17NO2
